US09334263B2
To a solution of 5-benzyl-2-(piperazin-1-yl)pyrimidin-4-ol (8.0 g, 29.5 mmol) and triethylamine (8.9 g, 88.5 mmol) in THF (90 mL) was added di-tert-butyl dicarbonate (7.7 g, 35.4 mmol). The mixture was stirred at RT overnight, and then diluted with ethyl acetate (300 mL). The organic phase was washed with water (300 mL) and brine (150 mL), dried over sodium sulfate, and evaporated under reduced pressure. The residue was purified by silica gel chromatography (petroleum ether/ethyl acetate=2:1 to 1:2) to give tert-butyl 4-(5-benzyl-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate (4.5 g, 41%) as a pale yellow solid. MS (ES+) C20H26N4O3 requires: 370, found: 371 [M+H]+.

reactant | 5-benzyl-2-(piperazin-1-yl)pyrimidin-4-ol | 29.5 mmol, 8.0 g | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N1CCNCC1)O | C15H18N4O
reactant | triethylamine | 88.5 mmol, 8.9 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 35.4 mmol, 7.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(5-benzyl-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate | 4.5 g, 41% | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C20H26N4O3
